US08536217B2
Synthesis of acrylic acid 4-[3-(4-benzoyl-phenoxy)-2-hydroxy-propoxy]butyl ester
A reaction mixture containing 4-hydroxybenzophenone (14.9 g, 75 mmol), acetonitrile (40 mL), potassium carbonate (7.8 g, 56.25 mmol) and 4-hydroxybutylacrylate glycidylether (7.5 g, 37.5 mmol) was heated to reflux. The mixture was allowed to stir at reflux temperature for 24 hours. The mixture was cooled to room temperature and filtered to remove the undissolved potassium carbonate. The filtrate was evaporated under reduced pressure. The residual oil was diluted with ethyl acetate (250 ml) and extracted with a mixture of an aqueous solution of sodium hydroxide (1N) and distilled water (4/1). The organic layer was separated, dried over MgSO4, filtered and evaporated to provide 15.1 g of a yellow oil. The product was purified on a SVP D40 Merck Np Column using dichloromethane/n-hexane (50/50) as eluent, to afford 5.5 g of a yellow oil.

reactant | 4-hydroxybenzophenone | 75 mmol, 14.9 g | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | potassium carbonate | 56.25 mmol, 7.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-hydroxybutylacrylate glycidylether | 37.5 mmol, 7.5 g | OCCCCOC(C=C)=O.C(C1CO1)OCC1CO1
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | acrylic acid 4-[3-(4-benzoyl-phenoxy)-2-hydroxy-propoxy]butyl ester | 15.1 g | C(C1=CC=CC=C1)(=O)C1=CC=C(OCC(COCCCCOC(C=C)=O)O)C=C1 | C23H26O6
